US05387718
10 mol of 2-nitrophenol was charged into a stirred, heated reactor, along with 800 ml of nonane and 5% N,N'-dimethylbenzoamidine, and the mixture was heated to 150° C. Then 12 mol of dimethyl carbonate was added portionwise over 5 hr. The methanol produced by the reaction was removed by distillation over a distillation column. After completion of the reaction, the reaction mixture was refined by distillation. 2-Nitroanisole was obtained in the amount of about 9 mol, corresponding to a yield of c. 90%, based on the starting amount of 2-nitrophenol.

reactant | 2-nitrophenol | 10 mol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | nonane | 800 ml | CCCCCCCCC | C9H20
reactant | N,N'-dimethylbenzoamidine | CNC(C1=CC=CC=C1)=NC | C9H12N2
reactant | dimethyl carbonate | 12 mol | C(OC)(OC)=O | C3H6O3
solvent | methanol | CO | CH4O
product | 2-Nitroanisole | [N+](=O)([O-])C1=C(C=CC=C1)OC | C7H7NO3
